US07259256B2
3. Chloroform-Isoamyl Alcohol Mixture:
Chloroform and isoamyl alcohol mixed at volume ratio of 24:1.

reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | Chloroform Isoamyl Alcohol | C(Cl)(Cl)Cl.C(CC(C)C)O | InChI=1S/C5H12O.CHCl3/c1-5(2)3-4-6;2-1(3)4/h5-6H,3-4H2,1-2H3;1H
